US05371097
Trifluoroacetic anhydride (2.4 ml) was added to a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (3.0 g) and triethylamine (4.7 ml) in N,N-dimethylformamide (60 ml) under ice-cooling, and the mixture was stirred at ambient temperature for 20 hours. The reaction mixture was added to a mixture of tetrahydrofuran, ethyl acetate and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-(6-trifluroacetylamino-methylpyridine-2-yl)thiazole (0.74 g).

reactant | Trifluoroacetic anhydride | 2.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 3.0 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-(6-trifluroacetylamino-methylpyridine-2-yl)thiazole | 0.74 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1C)NC(C(F)(F)F)=O | C12H11F3N6OS
